### PR TITLE
Add Erdős Problem 53 (Chang's theorem on subset sums and products), link the formal proof

### LINKED ISSUE #6165: Erdős Problem 53
### What is the Erdős problem?

https://www.erdosproblems.com/53

Let $A$ be a finite set of integers. Is it true that, for every $k$, if $\lvert A\rvert$ is sufficiently large depending on $k$, then there are least $\lvert A\rvert^k$ many integers which are either the sum or product of distinct elements of $A$?

Status: proved (Lean). Solved by Chang (Annals 2003); a formal proof exists in plby/lean-proofs (`Erdos53.erdos_53`, Codex and GPT-5.6 Sol).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-11

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6165.

### What changed
Adds `FormalConjectures/ErdosProblems/53.lean` with `sumsAndProducts A` (sums and products over nonempty subsets of `A`) and:
- `erdos_53` (`research solved`, `answer(True)`): for every `k` and all sufficiently large finite `A ⊆ ℤ`, `|sumsAndProducts A| ≥ |A|^k` (Chang [Ch03]). Linked to plby/lean-proofs `Erdos53.erdos_53` (Codex and GPT-5.6 Sol; single Mathlib-only file).
- `erdos_53.variants.upper` (`research solved`): the Erdős–Szemerédi construction with `≤ exp(c (log|A|)² log log|A|)` sums and products.

### How checked
- Rebuilt plby's file against this repo's Mathlib: `#print axioms Erdos53.erdos_53` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statement on top of a renamed copy, same axioms. plby's set also contains the empty sum `0` and the empty product `1`, so it has at most two more elements; applying plby's theorem with `k + 1` and `|A| ≥ 3` absorbs the difference:

<details>
<summary>Bridge</summary>

```lean
namespace Bridge53

/-- plby's set of subset sums and products (which includes the empty sum `0` and the empty
product `1`) is contained in ours together with `{0, 1}`. -/
lemma subset (A : Finset ℤ) :
    Erdos53Plby.sumProdValues A ⊆ Erdos53.sumsAndProducts A ∪ {0, 1} := by
  intro x hx
  simp only [Erdos53Plby.sumProdValues, Finset.mem_union, Finset.subsetSum,
    Erdos53Plby.subsetProducts, Finset.mem_image, Finset.mem_powerset] at hx
  simp only [Erdos53.sumsAndProducts, Finset.mem_union, Finset.mem_image, Finset.mem_erase,
    Finset.mem_powerset, Finset.mem_insert, Finset.mem_singleton]
  rcases hx with ⟨B, hB, rfl⟩ | ⟨B, hB, rfl⟩
  · by_cases hBe : B = ∅
    · subst hBe; simp
    · exact Or.inl (Or.inl ⟨B, ⟨hBe, hB⟩, rfl⟩)
  · by_cases hBe : B = ∅
    · subst hBe; simp
    · exact Or.inl (Or.inr ⟨B, ⟨hBe, hB⟩, rfl⟩)

theorem erdos_53_bridge : type_of% Erdos53.erdos_53 := by
  show True ↔ _
  simp only [true_iff]
  intro k
  obtain ⟨N, hN⟩ := Erdos53Plby.erdos_53 (k + 1)
  refine ⟨max N 3, fun A hA => ?_⟩
  have h1 := hN A (le_trans (le_max_left _ _) hA)
  have h2 : (Erdos53Plby.sumProdValues A).card ≤ (Erdos53.sumsAndProducts A).card + 2 := by
    calc (Erdos53Plby.sumProdValues A).card
        ≤ (Erdos53.sumsAndProducts A ∪ {0, 1}).card := Finset.card_le_card (subset A)
      _ ≤ (Erdos53.sumsAndProducts A).card + ({0, 1} : Finset ℤ).card := Finset.card_union_le _ _
      _ ≤ (Erdos53.sumsAndProducts A).card + 2 := by
        gcongr
        exact Finset.card_le_two
  have h3 : 3 ≤ A.card := le_trans (le_max_right _ _) hA
  have h4 : A.card ^ k + 2 ≤ A.card ^ (k + 1) := by
    rw [pow_succ]
    have : 1 ≤ A.card ^ k := Nat.one_le_pow _ _ (by omega)
    nlinarith
  omega

end Bridge53
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«53»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/53.lean [hunk 1]
```diff
@@ -0,0 +1,82 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/53.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]
